US07291734B2
50 ml of saturated etheric hydrochloric add are added to a solution of 9.95 g of 2-(3,5-bis-trifluoromethyl-benzenesulfonylamino)-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid tert-butyl ester in 150 ml of CH2Cl2 and and the mixture obtained is stirred at RT for 4 hours. From the mixture obtained solvent is evaporated and the evaporation residue obtained is treated with diethylether. A solid precipitates, is filtrated off and dried. 2-(3,5-Bis-trifluoromethyl-benzenesulfonylamino)-4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridin-5-ium hydrochloride salt is obtained.

reactant | 2-(3,5-bis-trifluoromethyl-benzenesulfonylamino)-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid tert-butyl ester | 9.95 g | C(C)(C)(C)OC(=O)N1CC2=C(CC1)N=C(S2)NS(=O)(=O)C2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F | C19H19F6N3O4S2
reactant | diethylether | C(C)OCC | C4H10O
reactant | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
product | 2-(3,5-Bis-trifluoromethyl-benzenesulfonylamino)-4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridin-5-ium hydrochloride salt | Cl.FC(C=1C=C(C=C(C1)C(F)(F)F)S(=O)(=O)NC=1SC=2C[NH2+]CCC2N1)(F)F | InChI=1S/C14H11F6N3O2S2.ClH/c15-13(16,17)7-3-8(14(18,19)20)5-9(4-7)27(24,25)23-12-22-10-1-2-21-6-11(10)26-12;/h3-5,21H,1-2,6H2,(H,22,23);1H/p+1
